US04701456
A 2.9 g (0.012 mole) sample of 7-(3-chloropropoxy)-2H-1-benzopyran-2-one as prepared in Example 1 above, 2 g (0.012 mole) 4-(2-thienyl)tetrahydropyridine, and 5 g NaHCo3 in 80 ml DMF is stirred at 80°-90° C. for seven hours at room temperature overnight then filtered and evaporated in vacuo. The residue in methylene dichloride is washed with NaHCO3, dried (MgSO4) and evaporated in vacuo. 7-[3-[3,6-Dihydro-4-(2-thienyl)-1(2H)-pyridinyl]propoxy]-2H-1-benzopyran-2-one as 4.3 g of dark oil was obtained. The oil was dissolved in 20 ml of 2-propanol and treated with 3 ml of 20% 2-propanolic hydrogen chloride solution to give 2.4 g of the monhydrochloride salt, mp 235-7° C.

reactant | 7-(3-chloropropoxy)-2H-1-benzopyran-2-one | ClCCCOC1=CC2=C(C=CC(O2)=O)C=C1 | C12H11ClO3
reactant | 4-(2-thienyl)tetrahydropyridine | 0.012 mole, 2 g | S1C(=CC=C1)C1CCNC=C1 | C9H11NS
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
product | 7-[3-[3,6-Dihydro-4-(2-thienyl)-1(2H)-pyridinyl]propoxy]-2H-1-benzopyran-2-one | S1C(=CC=C1)C=1CCN(CC1)CCCOC1=CC2=C(C=CC(O2)=O)C=C1 | C21H21NO3S
